Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
sulfamethoxazole / trazodone / cephalexin / morphine / 
Penicillins / Sulfa (Sulfonamide Antibiotics) / tetracycline
 
Attending: ___
 
Chief Complaint:
Abdominal Pain / Hydronephrosis
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms ___ is a ___ year old woman with a history of recently 
diagnosed metastatic spindle cell carcinoma (believed to arise 
from right ureter) admitted for abdominal pain and severe right 
hydronephrosis. 

Patient had several months of workup for pelvic mass, with 
recent PET/CT scan identifying metastatic lesions in the liver. 
She previously had a non-diagnostic liver biopsy. In the end of 
___ she had a ureteral biopsy which demonstrated spindle cell 
carcinoma. 

She has had some vague abdominal discomfort symptoms over the 
past few weeks, sometimes waxing and waning with medications, 
activities, but without a clear pattern. Within the last two 
days, however, her pain became much more severe and worsened 
despite a narcotic prescription from her outpatient providers. 
For this reason she called EMS and was brought to ___-P where a 
CTAP demonstrated enlarging right pelvic mass and severe 
hydronephrosis. As she had seen Dr ___ in urologic 
consultation, she was transferred to ___. 

She notes that her pain is all over the abdomen, but worse in 
the lower quadrants. It is worsened with right hip flexion, or 
with flexing her abdominal muscles. The bumps on the road while 
in the ambulance also caused her discomfort. Has not noticed 
alleviating features. No radiation. no fevers or chills. She 
thinks her bowel function has been less than previously, 
slightly constipated. Thinks she is peeing more frequently, but 
denies any dysuria, urgency, or hematuria. No flank or back 
pains. No ___ edema. Her pain was controlled with IV 
hydromorphone in the ED, and is presently manageable. 

She expresses a strong desire to "get the mass out" no matter 
what as soon as possible.   

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 

 
Past Medical History:
- HTN
- HLD
- Nephrolithiasis w/ Lithotripsy
- Chronic left rib pain
- Cataracts
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 99.1 145/82 84 18 95 Ra 
GEN: Middle aged woman in NAD, awake and alert
EYES: Anicteric, non-injected
HEENT: NCAT, MMM, grossly nl OP
Neck: non-tender, no LAD
CV: RRR nl S1/S2 no g/r/m 2+ rad/DP pulses
Chest: CTAB no w/r/r
Back: no midline spinous process or paraspinal tenderness. No 
CVAT. No flank fullness or overlying skin changes.
Abd: soft, ND. TTP in b/l LQ without r/g. NABS. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
ADMISSION LABS:
___ 03:35AM BLOOD WBC-8.0 RBC-4.83 Hgb-12.7 Hct-40.9 MCV-85 
MCH-26.3 MCHC-31.1* RDW-13.6 RDWSD-42.1 Plt ___
___ 03:35AM BLOOD Neuts-57.4 ___ Monos-7.3 Eos-1.6 
Baso-0.6 Im ___ AbsNeut-4.57 AbsLymp-2.59 AbsMono-0.58 
AbsEos-0.13 AbsBaso-0.05
___ 03:35AM BLOOD Plt ___
___ 10:40AM BLOOD ___
___ 03:35AM BLOOD Glucose-98 UreaN-10 Creat-0.8 Na-139 
K-4.5 Cl-98 HCO3-25 AnGap-16
___ 03:35AM BLOOD ALT-16 AST-26 AlkPhos-106* TotBili-0.3
___ 03:35AM BLOOD Albumin-4.5
___ 03:44AM BLOOD Lactate-1.2

IMAGING:
- CTAP/c (___): Severe right hydronephrosis due to enlarging 
right RP mass. There are multiple hepatic masses, some of which 
are new, several which have increased in size. There is a new 
right lung nodule which could represent a metastasis. 
Cholelithiasis. 

- PET Scan (___): The mass along the right side of the 
pelvis is intensely FDG avid. In the liver, there are at least 3 
FDG avid metastases. Otherwise, no FDG avid adenopathy or 
lesions are identified.

MICRO:
- Urine Culture: No growth, final 
- Blood Culture:

 
Brief Hospital Course:
Ms ___ is a ___ year old woman with a history of recently 
diagnosed metastatic spindle cell carcinoma admitted for 
abdominal pain and severe right hydronephrosis. 

# Metastatic Spindle Cell Carcinoma
# Severe Right Hydronephrosis: Pt originally presented to 
___ with worsened lower abdominal pain. CTAP 
demonstrated enlarging right pelvic mass, liver mets enlarging 
and increasing in number, severe hydronephrosis from extrinsic 
compression of pelvic mass. UA was without pyuria/bacteruria and 
there are no clinical signs for systemic infection. Her renal 
function remained around baseline with a creatinine of 0.8. 
Patient was initially seen by urology, but declined stenting or 
PCN placement, requesting only that the uretal/pelvic mass be 
excised. After communicating with patient's primary oncologist, 
inpatient hematology-oncology was consulted for management 
assistance. They recommended renal decompression and to keep GU 
intake appointment on ___ for possible immunotherapy. They 
also, in turn, recommended radiation oncology appointment for 
possible radiotherapy options.

Patient was eventually agreeable to PCN placement, but Urology 
evaluation indicated that she is not in urgent need to have 
stent placed as her kidney function is still in the same range 
and patient was very anxious and wanted to leave the hospital as 
she frustrated that the mass has not been removed yet. Plan has 
been discussed with the patient and we discussed the importance 
of following up with her appointments 

She was discharged with intent to follow-up with her ___ medical 
oncology intake appointment on ___ afternoon. 

# Anxiety: Continued home pregabalin and lorazepam

TRANSITIONAL ISSUES
[ ] Note that CTAP demonstrated enlarging right pelvic mass, 
liver mets enlarging and increasing in number and a new 
pulmonary node, suspicious for new met. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO TID 
2. Multivitamins 1 TAB PO DAILY 
3. Pregabalin 75 mg PO BID 
4. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Moderate 

 
Discharge Medications:
1.  LORazepam 0.5 mg PO TID  
2.  Multivitamins 1 TAB PO DAILY  
3.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Moderate Duration: 5 Doses  
4.  Pregabalin 75 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Metastatic Spindle Cell Carcinoma
Severe Right Hydronephrosis

 

 
Discharge Condition:
.
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please follow up with Oncology Doctor tomorrow, your appointment 
is already been scheduled by you. 

 
Followup Instructions:
___